US04816452
Triethylamine (4 ml) was added to a suspension of N-(4-nitrobenzyloxycarbonyl)glycine (7.25 g) in dry dichloromethane at -20° C. Ethyl chloroformate (2.75 ml) was added to the resultant solution and the mixture stirred at -20° to -10° C. for 20 mins. A solution of 4-hydroxybenzoic acid (3.94 g) and triethylamine (4 ml) in dichloromethane (50 ml) was added dropwise, and stirring continued for 2.5 h after addition. The mixture was filtered, the filtrate washed with 10% aqueous citric acid (20 ml), water (20 ml), and brine (20 ml), and dried (MgSO4). Evaporation under reduced pressure afforded the crude product, 4-[N-(4-nitrobenzyloxycarbonyl)glycyloxy]benzoic acid as a pale yellow foam. Without further purification, 4-[N-(4-nitrobenzyloxycarbonyl)glycyloxy]benzoic acid was treated with chloromethylchlorosulphate (5.77 g) under the conditions described in Example 55b. After work-up and chromatography as described therein, the title compound was obtained as a white crystalline solid (1.81 g), m.p. 119°-120° C. (ethylacetate/hexane); νmax (CH2Cl2) 3450, 1780, 1740, 1610, and 1520 cm-1 ; δH (CDCl3) 4.33 (2H, d, J 6 Hz), 5.33 (2H, s), 5.72 (1H, br t, J 6 Hz), 6.03 (2H, s), 7.23-7.70 (4H, m), and 8.18-8.40 (4H, m).

reactant | Triethylamine | 4 ml | C(C)N(CC)CC | C6H15N
reactant | N-(4-nitrobenzyloxycarbonyl)glycine | 7.25 g | [N+](=O)([O-])C1=CC=C(COC(=O)NCC(=O)O)C=C1 | C10H10N2O6
reactant | Ethyl chloroformate | 2.75 ml | ClC(=O)OCC | C3H5ClO2
reactant | 4-hydroxybenzoic acid | 3.94 g | OC1=CC=C(C(=O)O)C=C1 | C7H6O3
reactant | triethylamine | 4 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 4-[N-(4-nitrobenzyloxycarbonyl)glycyloxy]benzoic acid | [N+](=O)([O-])C1=CC=C(COC(=O)NCC(=O)OC2=CC=C(C(=O)O)C=C2)C=C1 | C17H14N2O8
